US08633315B2
To a 1.0 L RBF containing (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)pent-4-en-3-yl)-2-methylpropane-2-sulfinamide (5.45 g, 12 mmol) was added EtOH (75 mL) and the mixture was allowed to stir at 0° C. for 10 min. HCl (4 N in dioxane) (15 ml, 61 mmol) was added and the reaction was allowed to stir for 5 h and then quenched by the addition of TEA (17 ml, 121 mmol) followed by DCM (15 ml) and Boc2O (5.3 g, 24 mmol). The reaction was allowed to stir overnight and then extracted with EtOAc. The crude oil was purified on a 330 g Isco chromatography column (20 to 35% EtOAc in hexanes) to give tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxypent-4-en-3-ylcarbamate (3.80 g, 95% yield).

reactant | (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)pent-4-en-3-yl)-2-methylpropane-2-sulfinamide | 12 mmol, 5.45 g | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@H](C=C)N[S@@](=O)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C21H47NO3SSi2
reactant | EtOH | 75 mL | CCO | C2H6O
reactant | HCl | 61 mmol, 4 N, 15 ml | Cl | ClH
reactant | Boc2O | 24 mmol, 5.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxypent-4-en-3-ylcarbamate | 3.80 g, 95% yield | [Si](C)(C)(C(C)(C)C)O[C@H](CO)[C@H](C=C)NC(OC(C)(C)C)=O | C16H33NO4Si
